US05246948
i) Synthesis of 5-benzylidenerhodanine
To a solution of 10 g (75.1 mmol) of rhodanine and 7.63 ml (75.1 mmol) of benzaldehyde in 150 ml of ethanol, 0.74 ml (7.5 mmol) of piperidine was added, and the mixture was heated under reflux for 5 hours. After cooling, the precipitated crystals were filtered and washed with cooled ethanol to give 11.07 g of the desired compound (66.6% yield, pale yellow crystals).

reactant | rhodanine | 75.1 mmol, 10 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | benzaldehyde | 75.1 mmol, 7.63 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 7.5 mmol, 0.74 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-benzylidenerhodanine | 11.07 g, 66.6% yield | C(C1=CC=CC=C1)=C1C(NC(S1)=S)=O | C10H7NOS2
